US06331538B1
1-(3-Fluorophenyl)-6-fluoro-3-benzyloxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione
Using General Method 4, the reaction of pyrrolidine (0.1 mL, 1.28 mmol), triethylamine (0.18 mL, 1.28 mmol), and 1-(3-fluorophenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione (Example G-1, 0.17 g, 0.43 mmol) provided 0.1 g of the title compound as a solid.

reactant | pyrrolidine | 1.28 mmol, 0.1 mL | N1CCCC1 | C4H9N
reactant | triethylamine | 1.28 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-fluorophenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione | 0.43 mmol, 0.17 g | FC=1C=C(C=CC1)N1C(N(C(C2=CC(=C(C=C12)F)F)=O)OCC1=CC=CC=C1)=O | C21H13F3N2O3
product | 1-(3-Fluorophenyl)-6-fluoro-3-benzyloxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.1 g | FC=1C=C(C=CC1)N1C(N(C(C2=CC(=C(C=C12)N1CCCC1)F)=O)OCC1=CC=CC=C1)=O | C25H21F2N3O3
